US05604227
10-Amino-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione
To a stirred solution of dimethyl 4-aminoquinoline-2,3-dicarboxylate (0.15 g, 0.58 mM) in ethanol (4 mL) was added hydrazine hydrate (1.46 g, 29.2 mM) and the resulting solution was refluxed for 3 hr. The reaction mixture was cooled to room temperature and filtered to separate the yellow precipitate (0.12 g). This material was stirred in refluxing acetic acid (4.5 mL) for 1 hr. After cooling to room temperature the reaction mixture was filtered and the collected solids washed with acetic acid and ethyl acetate. Air drying provided the title compound (0.13 g, 68%) as an orange solid, mp >400° C.; MS(CI): 229 (M+H). Analysis for C11H8N4O2 ·1.7 CH3CO2H: Calculated: C, 52.36; H, 4.52; N, 16.96 Found: C, 52.26; H, 4.55; N, 16.90

reactant | dimethyl 4-aminoquinoline-2,3-dicarboxylate | 0.58 mM, 0.15 g | NC1=C(C(=NC2=CC=CC=C12)C(=O)OC)C(=O)OC | C13H12N2O4
reactant | hydrazine hydrate | 29.2 mM, 1.46 g | O.NN
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 10-Amino-2,3-dihydropyridazino[4,5-b]quinoline-1,4-dione | 0.13 g, 68% | NC1=C2C(=NC=3C=CC=CC13)C(NNC2=O)=O | C11H8N4O2
